US08648066B2
To a solution of (R)-pyrrolidin-3-ol (32 mg, 0.37 mmol) and potassium carbonate (102 mg, 0.74 mmol) in dioxane (2 mL) and water (400 uL) was added 2-amino-5-bromopyridine-3-sulfonyl chloride (100 mg, 0.37 mmol, prepared according to the methods in WO2008144463). The reaction mixture was stirred for 2 h at rt. Saturated sodium bicarbonate was then added, and the aqueous solution was extracted twice with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated in vacuo to provide (R)-1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ol (87.3 mg, 0.27 mmol, 73% yield) as a white solid. 1H NMR (400 MHz, DMSO-D6-d6) δ 8.31 (d, 1H), 7.92 (d, 1H), 6.85 (br s, 2H), 5.02 (br s, 1H), 4.23 (dt, 1H), 3.38-3.25 (m, 3H), 3.14-3.06 (m, 1H), 1.92-1.81 (m, 1H), 1.77-1.67 (m, 1H); MS (EI) for C9H12BrN3O3S: 322, 324 (Br isotopes, MH+).

reactant | (R)-pyrrolidin-3-ol | 0.37 mmol, 32 mg | N1C[C@@H](CC1)O | C4H9NO
reactant | potassium carbonate | 0.74 mmol, 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-5-bromopyridine-3-sulfonyl chloride | NC1=NC=C(C=C1S(=O)(=O)Cl)Br | C5H4BrClN2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 400 uL | O | H2O
product | (R)-1-(2-amino-5-bromopyridin-3-ylsulfonyl)pyrrolidin-3-ol | 0.27 mmol, 87.3 mg, 73% yield | NC1=NC=C(C=C1S(=O)(=O)N1C[C@@H](CC1)O)Br | C9H12BrN3O3S
